### PR TITLE
[ fix #364 ] Propositional function spaces

### LINKED ISSUE #364: Refactor: opportunities to use `Function.Equivalence`'s `equivalence`
[`equivalence`](https://agda.github.io/agda-stdlib/Function.Equivalence.html#804) lifts a pair of functions going back and forth between two Sets to an
equivalence between the two corresponding trivial setoids (picking propositional
equality as the equivalence relation).

In the standard library we often reinvent the wheel by building the record and
manually calling `→-to-⟶` on each of the fields. Here is a list of files with candidates
for refactoring.

* [x] Codata/Musical/Colist
* [x] Codata/Musical/Colist/Infinite-merge
* [x] Data/Container/Any
* [x] Data/Container/Combinator
* [x] Data/Container/Indexed/Combinator
* [x] Data/Fin/Permutation
* [x] Data/List/All/Properties
* [x] Data/List/Any/Properties
* [x] Data/List/Membership/Propositional/Properties
* [x] Data/List/Membership/Propositional/Properties/Core
* [x] Data/List/Relation/BagAndSetEquality
* [x] Data/List/Relation/Permutation/Inductive/Properties
* [x] Data/Product/N-ary/Properties
* [x] Data/Vec/All/Properties
* [x] Data/Vec/Properties
* [x] Function/Related/TypeIsomorphisms

### PR DESCRIPTION
**Pull request by MatthewDaggitt**
I have to confess I kind of disappeared down a rabbit hole. Ended up adding smart constructors for all the other function types. I also standardised all the `Function.X` files.

The only one I couldn't seem to use the smart constructor for was `Constant` in `Data.Container.(Indexed).Combinator`. I'm not sure quite what the problem is, but I've left it as a future challenge for someone.

Net gain = -200 lines of code.

### CODE REVIEW

File: src/Codata/Musical/Colist/Infinite-merge.agda [hunk 1]
```diff
@@ -116,107 +119,92 @@ private
...
+    from (here (inj₁ p))        = here p
+    from (here (inj₂ p))        = there (Inverse.from (Any-⋎P _)  ⟨$⟩ inj₁ p)
+    from (there {x = _ , xs} p) = there (Inverse.from (Any-⋎P xs) ⟨$⟩ inj₂ (from p))
+
+    -- Some lemmas.
+
+    drop-there : ∀ {x xs} {p q : Any P _} →
+                 _≡_ {A = Any P (x ∷ xs)} (there p) (there q) → p ≡ q
+    drop-there P.refl = P.refl
+
```
Comment (gallais) [inline src/Codata/Musical/Colist/Infinite-merge.agda]: Is this `there-injective`? It could me moved to the toplevel.

File: src/Codata/Musical/Colist/Infinite-merge.agda [hunk 2]
```diff
@@ -116,107 +119,92 @@ private
...
+      step : ∀ p → WF.WfRec (_<′_ on size) Pred p → Pred p
+      step ([]             , ())      rec
+      step ((x , xs) ∷ xss , here  p) rec = here (inj₁ p) , P.refl
+      step ((x , xs) ∷ xss , there p) rec
+        with Inverse.to (Any-⋎P xs) ⟨$⟩ p
+           | Inverse.left-inverse-of (Any-⋎P xs) p
+           | index-Any-⋎P xs p
+      step ((x , xs) ∷ xss , there .(Inverse.from (Any-⋎P xs) ⟨$⟩ inj₁ q)) rec | inj₁ q | P.refl | _   = here (inj₂ q) , P.refl
+      step ((x , xs) ∷ xss , there .(Inverse.from (Any-⋎P xs) ⟨$⟩ inj₂ q)) rec | inj₂ q | P.refl | q≤p =
+        Prod.map there
```
Comment (gallais) [inline src/Codata/Musical/Colist/Infinite-merge.agda]: Would it make sense to replace the dotted expressions with underscores? These lines are *loong*.

File: src/Data/List/Relation/BagAndSetEquality.agda [hunk 3]
```diff
@@ -258,14 +258,14 @@ empty-unique {xs = _ ∷ _} ∷∼[] with ⇒→ ∷∼[] (here P.refl)
...
-  (fs >>= λ f → xs₁ ++ xs₂ >>= return ∘ f)  ≡⟨ (MP.cong (P.refl {x = fs}) λ f →
+  fs ⊛ (xs₁ ++ xs₂)                         ≡⟨ refl ⟩
+  (fs >>= λ f → xs₁ ++ xs₂ >>= return ∘ f)  ≡⟨ (MP.cong (refl {x = fs}) λ f →
                                                 MP.right-distributive xs₁ xs₂ (return ∘ f)) ⟩
   (fs >>= λ f → (xs₁ >>= return ∘ f) ++
                 (xs₂ >>= return ∘ f))       ≈⟨ >>=-left-distributive fs ⟩
 
   (fs >>= λ f → xs₁ >>= return ∘ f) ++
-  (fs >>= λ f → xs₂ >>= return ∘ f)         ≡⟨ P.refl ⟩
+  (fs >>= λ f → xs₂ >>= return ∘ f)         ≡⟨ refl ⟩
```
Comment (gallais) [inline src/Data/List/Relation/BagAndSetEquality.agda]: Note that all of the `_≡⟨ refl ⟩_` could be replaced with `_≡⟨⟩_`.

File: src/Codata/Musical/Colist/Infinite-merge.agda (hunk 1 above)
Comment (MatthewDaggitt) [reply src/Codata/Musical/Colist/Infinite-merge.agda]: Yes, good idea. I originally thought it was `there` from `Data.Any` hence why I have those two new lemmas randomly.

File: src/Codata/Musical/Colist/Infinite-merge.agda (hunk 2 above)
Comment (MatthewDaggitt) [reply src/Codata/Musical/Colist/Infinite-merge.agda]: Yup!

File: src/Data/List/Relation/BagAndSetEquality.agda (hunk 3 above)
Comment (MatthewDaggitt) [reply src/Data/List/Relation/BagAndSetEquality.agda]: Good idea.

File: src/Codata/Musical/Colist/Infinite-merge.agda (hunk 1 above)
Comment (MatthewDaggitt) [reply src/Codata/Musical/Colist/Infinite-merge.agda]: Weird, it already existed!

Comment (gallais) [reply src/Codata/Musical/Colist/Infinite-merge.agda]: Less work for you! Woohoo!
